US08754114B2
Step 3: N-cyclopropyl-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanamide
Cyclopropylamine (17 μL, 0.24 mmol) was added to a mixture of 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid (0.16 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (110 mg, 0.24 mmol) in DMF (2.0 mL), followed by triethylamine (45 μL, 0.32 mmol). The reaction mixture was stirred at r.t. for 30 min. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=513.2.

reactant | Cyclopropylamine | 0.24 mmol, 17 μL | C1(CC1)N | C3H7N
reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid | 0.16 mmol | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=NN(C2)C(C(=O)O)C)(F)F | C21H18F3N7O3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.24 mmol, 110 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.32 mmol, 45 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanamide | C1(CC1)NC(C(C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O | C24H23F3N8O2
